US04215121
2-Amino-4-methyl-6-chloropyrimidine (52 g, 0.36 mole) is heated at 160° C. for 18 hours with ethanol and an equimolar amount of dimethylamine in a pressure vessel. The reaction mixture is evaporated in vacuo taken up in 200 ml. of water containg 50 ml. 10 N sodium hydroxide and 300 ml. of methylene chloride. The mixture is extracted with methylene chloride and the organic layer dried and evaporated to dryness in vacuo affording 46 g of 2-amino-4-methyl-6-dimethylaminopyrimidine with a melting point of 172°-174° C.

reactant | 2-Amino-4-methyl-6-chloropyrimidine | 0.36 mole, 52 g | NC1=NC(=CC(=N1)C)Cl | C5H6ClN3
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-methyl-6-dimethylaminopyrimidine | 46 g | NC1=NC(=CC(=N1)C)N(C)C | C7H12N4
